US08609653B2
To a solution of diethyl malonate (19.05 mL, 124 mmol) and acetonitrile (6.46 mL, 124 mmol) in 1,2-dichloroethane (DCE) (80 mL) under nitrogen atmosphere was slowly added tin(IV) chloride (31.9 mL, 272 mmol) in 30 min and then the mixture was heated to 125° C. for 2.5 h. The mixture was concentrated to a paste and then dissolved in acetone (350 mL), transferred to a beaker vigorously stirred and saturated Na2CO3/water (250 mL) was added dropwise to pH˜9-10. The slush was filtered through a bed of celite stirring the surface of the Celite™ to facilitate filtering. The filter cake was washed with dichloromethane (4×200 mL). The aqueous phase was separated from the filtrate and the organic phase was dried (Na2SO4), concentrated and dried in vacuo to provide diethyl 2-(1-aminoethylidene)malonate (25.51 g, 120 mmol, 97% yield) as a pale amber oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.29 (m, 6 H), 2.15 (s, 3 H), 4.06-4.32 (m, 4 H), 4.81-5.20 (m, 1 H), 8.72-9.18 (m, 1 H); LCMS (m/z) ES+=202 (M+1).

reactant | diethyl malonate | 124 mmol, 19.05 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | acetonitrile | 124 mmol, 6.46 mL | C(C)#N | C2H3N
reactant | tin(IV) chloride | 272 mmol, 31.9 mL | [Sn](Cl)(Cl)(Cl)Cl
solvent | 1,2-dichloroethane | 80 mL | ClCCCl | C2H4Cl2
product | diethyl 2-(1-aminoethylidene)malonate | 120 mmol, 25.51 g, 97% yield | NC(C)=C(C(=O)OCC)C(=O)OCC | C9H15NO4
